US05602170
Synthesis of 5-(N-phenyliminomethylidene)-2,2'-bithiophene
5.0 g of 5-formyl-2,2'-bithiophene was dissolved in 45 ml of benzene. 2.4 ml of aniline was added and refluxed for 24 hours at 85° C. 6.9 g of crude product was obtained after removal of solvent under reduced pressure and the purer product could be obtained by recrystallization with ethanol.

reactant | 5-formyl-2,2'-bithiophene | 5.0 g | C(=O)C1=CC=C(S1)C=1SC=CC1 | C9H6OS2
reactant | aniline | 2.4 ml | NC1=CC=CC=C1 | C6H7N
solvent | benzene | 45 ml | C1=CC=CC=C1 | C6H6
product | 5-(N-phenyliminomethylidene)-2,2'-bithiophene | C1(=CC=CC=C1)N=C=C1CC=C(S1)C=1SC=CC1 | C15H11NS2
